US06440440B1
A mixture of (±)-N-[3-([1,1′-biphenyl]-4-yl)-3-phenylpropyl]-N′-methyl-N′-(phenylmethyl)-1,2-ethanediamine (0.006 mol) in methanol (150 ml) was hydrogenated at room temperature with palladium on carbon (10%, 1 g) as a catalyst. After uptake of hydrogen (1 equivalent), the catalyst was filtered off and the filtrate was evaporated, giving a residue that was converted into the hydrochloric acid salt (1:2) with HCl/2-propanol, yielding 2.76 g of (±)-N-[3-([1,1′-biphenyl]-4-yl)-3-phenylpropyl]-N′-methyl-1,2-ethanediamine dihydrochloride (comp. 56).

reactant | (±)-N-[3-([1,1′-biphenyl]-4-yl)-3-phenylpropyl]-N′-methyl-N′-(phenylmethyl)-1,2-ethanediamine | 0.006 mol | C1(=CC=C(C=C1)C(CCNCCN(CC1=CC=CC=C1)C)C1=CC=CC=C1)C1=CC=CC=C1 | C31H34N2
reactant | hydrogen | 1 equivalent | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
reactant | HCl 2-propanol | Cl.CC(C)O
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | (±)-N-[3-([1,1′-biphenyl]-4-yl)-3-phenylpropyl]-N′-methyl-1,2-ethanediamine dihydrochloride | 2.76 g | Cl.Cl.C1(=CC=C(C=C1)C(CCNCCNC)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H28N2.2ClH/c1-25-18-19-26-17-16-24(22-10-6-3-7-11-22)23-14-12-21(13-15-23)20-8-4-2-5-9-20;;/h2-15,24-26H,16-19H2,1H3;2*1H
